US04239903
2.9 g of 3,4-dimethoxybenzoic acid and 4 ml of thionyl chloride were heated for 4 hours at reflux and concentrated under reduced pressure to obtain 3,4-dimethoxybenzoyl chloride. The 3,4-dimethoxybenzoyl chloride was dissolved in 10 ml of anhydrous benzene, and the resulting solution was added dropwise to a solution of 4.0 g of N-ethyl-N-(4-hydroxybutyl)-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine and 2.2 g of triethylamine in 50 ml of anhydrous benzene. After the addition, the resulting solution was stirred for 30 minutes at room temperature (about 25° C.) and heated for 3.5 hours at reflux. The reaction solution was washed with water, a 2 N-NaOH aqueous solution and water in this order, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified through silica gel chromatography to obtain N-ethyl-N-[4-(3,4-dimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine as a colorless oily product. To this oily product was added an ethanolic solution of hydrogen chloride having a concentration of about 18% and the resulting solution was concentrated under reduced pressure to obtain a residue. The residue was dissolved in a mixed solvent of acetone and diethyl ether, and the solution was left at a temperature of about 2° to 3° C. to form crystals. By collecting the crystals through filtration and recrystallization from a mixed solvent of acetone and diethyl ether, 3.0 g of N-ethyl-N-[4-(3,4-dimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride was obtained as colorless crystals having a melting point of 139°-140° C. The melting point, the infrared spectra and other physical data of this product corresponded to the date of the compound obtained in Example 2 (ii).

reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | N-ethyl-N-(4-hydroxybutyl)-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | 4.0 g | C(C)N(CCCCO)C1CC2=CC=C(C=C2CC1)OC | C17H27NO2
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-ethyl-N-[4-(3,4-dimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | C(C)N(CCCCOC(C1=CC(=C(C=C1)OC)OC)=O)C1CC2=CC=C(C=C2CC1)OC | C26H35NO5
